US07378427B2
8-Fluoro-6-methylphenanthridine
1H NMR and TLC and no starting material was present (2-iodoaniline). 2-Acetyl-4-fluorophenyl trifluoromethanesulfonate (7.9 g, 28 mmol) was added to the reaction mixture, along with aqueous sodium carbonate (2 M, 61 mL, 122 mmol) and additional [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (1.0 g, 1.22 mmol) and N,N-dimethylformamide (50 mL). The reaction mixture was degassed several times and heated at 85° C. for 18 hours. The mixture was cooled to room temperature and poured into water (250 mL). The suspension was extracted with diethyl ether (2×250 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo to give a brown oil. Purification by column chromatography (1:4 ethyl acetate:hexane) gave the product as a pale yellow solid (1.33 g, 27% ).

reactant | 2-iodoaniline | IC1=C(N)C=CC=C1 | C6H6IN
reactant | 2-Acetyl-4-fluorophenyl trifluoromethanesulfonate | 28 mmol, 7.9 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)F)C(C)=O)(F)F | C9H6F4O4S
reactant | sodium carbonate | 122 mmol, 2 M, 61 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane | 1.22 mmol, 1.0 g | ClCCl | CH2Cl2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 8-Fluoro-6-methylphenanthridine | 1.33 g, 27% | FC1=CC2=C(N=C3C=CC=CC3=C2C=C1)C | C14H10FN
